US07915267B2
3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]benzonitrile
A solution of 3-[(2-hydroxyethyl)oxy]benzonitrile obtained in Reference Example 30 (19.2 g, 118 mmol) in THF (100 mL) was added dropwise to a suspension of 3-nitro-1-(triphenylmethyl)-1H-1,2,4-triazole obtained in Reference Example 33 (40.0 g, 112 mmol) and 60% sodium hydride (oil dispersion, 6.06 g, 151.52 mmol) in THF (300 mL), and the mixture was stirred at room temperature for 12 hr. The mixture was cooled to 0° C., and extracted with water and ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (0-30% ethyl acetate/hexane) to give the title compound as a white powder (25.0 g, 46%).

reactant | 3-[(2-hydroxyethyl)oxy]benzonitrile | OCCOC=1C=C(C#N)C=CC1 | C9H9NO2
reactant | 3-nitro-1-(triphenylmethyl)-1H-1,2,4-triazole | [N+](=O)([O-])C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H16N4O2
reactant | sodium hydride | 151.52 mmol, 6.06 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-[(2-{[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]oxy}ethyl)oxy]benzonitrile | 25.0 g, 46% | C1(=CC=CC=C1)C(N1N=C(N=C1)OCCOC=1C=C(C#N)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24N4O2
